US07163954B2
A mixture of [1-chloro-6-(3-pentanoyl-benzo[b]thiophen-2-yl)-naphthalen-2-yloxy]-acetic acid ethyl ester (0.0701 g, 0.146 mmol) and potassium hydroxide (0.032 g, 0.57 mmoles) in THF (4 mL) and water (4 mL) was stirred for 1.5 hours at ambient temperature. It was then poured in excess water and acidified with 2N hydrochloric acid. This was then extracted with ethyl acetate and washed with water and brine. The organic phase was dried with anhydrous magnesium sulfate, filtered, solvent evaporated dried in vacuo at 60° C. for 14 hours to yield [1-chloro-6-(3-pentanoyl-benzo[b]thiophen-2-yl)-naphthalen-2-yloxy]-acetic acid as a yellow semi-solid (0.0462 g, 69.9%); Mass spectrum (+ES, [M+H]+) m/z 453; 1H NMR (500 MHz, DMSO-d6): δ12.9–13.5 (br, 1H), 8.26 (d, 1H, J=8.85 Hz), 8.16 (d, 1H, J=1.83 Hz), 8.09–8.10 (m, 2H), 7.97–7.99 (m, 1H), 7.77 (dd, 1H, J=8.70 and 1.83 Hz), 7.47–7.56 (m, 3H), 5.03 (s, 2H), 2.43 (t, 2H, J=7.25 Hz), 1.42–1.48 (m, 2H), 0.98–1.06 (m, 2H), 0.59 ppm (t, 3H, J=7.40 Hz). Elemental Analysis for C25H21ClO4S+0.2 moles H2O: Calcd: C, 65.77; H, 4.72; N, 0.00; Found: C, 65.74; H, 4.99; N, 0.00.

reactant | [1-chloro-6-(3-pentanoyl-benzo[b]thiophen-2-yl)-naphthalen-2-yloxy]-acetic acid ethyl ester | 0.146 mmol, 0.0701 g | C(C)OC(COC1=C(C2=CC=C(C=C2C=C1)C1=C(C2=C(S1)C=CC=C2)C(CCCC)=O)Cl)=O | C27H25ClO4S
reactant | potassium hydroxide | 0.57 mmoles, 0.032 g | [OH-].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
product | [1-chloro-6-(3-pentanoyl-benzo[b]thiophen-2-yl)-naphthalen-2-yloxy]-acetic acid | 0.0462 g, 69.9% | ClC1=C(C=CC2=CC(=CC=C12)C1=C(C2=C(S1)C=CC=C2)C(CCCC)=O)OCC(=O)O | C25H21ClO4S
